* source 8-2-COMPLETE
R_R1         N00435 N00408  75  
I_I2         N00495 N00381 DC 5Adc  
R_R2         0 N00408  75  
V_V2         N00539 N00495 75Vdc
R_R3         N00381 N00408  50  
R_R4         N00495 0  50  
R_R5         N00381 N00495  50  
R_R6         N00381 N00539  75  
V_V1         N00435 0 100Vdc
