* source 8-1
R_R1         N03715 A  5  
R_R2         N05324 N03593  10  
R_R3         C 0  2  
I_I1         C A DC 3   
V_V1         N03593 0 50 
X_H1    N05324 A N03715 0 SCHEMATIC1_H1 
G_G1         C A C 0 0.25

.subckt SCHEMATIC1_H1 1 2 3 4  
H_H1         3 4 VH_H1 4
VH_H1         1 2 0V
.ends SCHEMATIC1_H1
