* source 8-2
R_R1         0 N00408  75  
R_R2         0 N00408  75  
V_V2         N00539 N00495 75Vdc
R_R3         N00381 N00408  50  
R_R4         N00495 0  50  
R_R5         N00381 N00495  50  
R_R6         N00381 N00539  75  
