* source 8-3
G_G1         0 N00442 C 0 0.5
R_R1         C N00442  2  
R_R2         N00179 C  3  
R_R3         0 C  6  
R_R4         0 N00442  10  
V_V1         N00179 0 50Vdc
