* source 8-4
V_V1         0 B 20Vdc
R_R1         N00652 N00686  4  
R_R2         N00686 A  6  
I_I2         0 N00652 DC 4Adc  
R_R3         0 N00652  2  
R_RL         B A  {a}  
I_I1         N00686 A DC 2Adc  
.PARAM  a=1k
