* source 9-1
R_R1         N01192 N00379  6  
X_U1         N00524 N01192 Sw_tClose PARAMS: tClose=0 ttran=1u Rclosed=0.01
+  Ropen=1Meg
R_R2         N01192 N00379  3  
R_R3         N00379 N00301  4  
R_R4         0 N00379  6  
L_L1         0 N00301  2  
V_V1         N00524 0 108
