* source 9-2
X_U5         B N09187 Sw_tClose PARAMS: tClose=0 ttran=1u Rclosed=0.01
+  Ropen=1Meg
R_R1         A N07639  6k  
R_R2         0 A  10k  
X_H2    C N05773 C N09187 SCHEMATIC1_H2 
R_R3         0 C  80k  
R_R4         N05773 C  20k  
V_V1         N05773 0 100
C_C1         0 B  5nF  
I_I1         0 A DC 8mAdc  
X_U6         B N07639 Sw_tOpen PARAMS: tOpen=0 ttran=1u Rclosed=0.01 Ropen=1Meg

.subckt SCHEMATIC1_H2 1 2 3 4  
H_H2         3 4 VH_H2 30000
VH_H2         1 2 0V
.ends SCHEMATIC1_H2
