* source 9-3
L_L1         N00504 N00534  80m  
R_R1         0 N00504  15  
G_G1         N00534 N00561 0 N00534 1
R_R2         N00561 N00534  1  
R_R3         N00395 N00561  20  
X_U2         N00743 N00561 Sw_tClose PARAMS: tClose=0 ttran=1u Rclosed=0.01
+  Ropen=1Meg
R_R4         N00743 N00600  5  
V_V1         N00395 0 480
V_V2         N00600 0 280
