* source 9-4
R_R1         N00535 N00245  16  
X_U1         N00414 N00535 Sw_tClose PARAMS: tClose=0 ttran=1u Rclosed=0.01
+  Ropen=1Meg
R_R2         0 N00336  4  
X_U2         N00336 N00414 Sw_tClose PARAMS: tClose=0 ttran=1u Rclosed=0.01
+  Ropen=1Meg
I_I1         N00336 0 DC 5m  
V_V1         N00245 0 30
C_C1         0 N00414  20n  
